US07365066B2
3-{4-[2-(6-Methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinolin-7-yl}-acrylic acid methyl ester
Combine 7-bromo-4-[2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline (0.15 g, 0.36 mmol), tri-o-tolylphosphine (0.38 g, 1.26 mmol), tribuytlamine (0.12 mL, 0.5 mmol), methyl acrylate (0.065 ml, 0.72 mmol), anhydrous toluene (3 mL), and DMF (1.5 mL). Bubble nitrogen gas through the solution for 20 minutes. Add palladium acetate (4.0 mg, 0.018 mmol). Heat the reaction mixture at 80° C. for 48 hours. Chromatograph the residue on silica gel (elute with 2% methanol/methylene chloride, then 4% methanol/methylene chloride). Further purification by preparative HPLC affords the title compound 42 mg (28%) as a yellowish solid.

reactant | 7-bromo-4-[2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline | 0.36 mmol, 0.15 g | BrC1=CC=C2C(=CC=NC2=C1)C=1C(=NN2C1C=CC=C2)C2=NC(=CC=C2)C | C22H15BrN4
reactant | tri-o-tolylphosphine | 1.26 mmol, 0.38 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | methyl acrylate | 0.72 mmol, 0.065 ml | C(C=C)(=O)OC | C4H6O2
reactant | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.018 mmol, 4.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3-{4-[2-(6-Methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinolin-7-yl}-acrylic acid methyl ester | 42 mg, 28% | COC(C=CC1=CC=C2C(=CC=NC2=C1)C=1C(=NN2C1C=CC=C2)C2=NC(=CC=C2)C)=O | C26H20N4O2
